US07238720B2
a) 1-(4-Toluenesulfonyl)-1H-triazole
To a solution of 1H-1,2,4-triazole (5 g) and 4-toluenesulfonyl chloride (14.5 g) in N,N-dimethylformamide was added sodium hydride (2.9 g) with cooling it on ice, and the reaction mixture was stirred for 40 minutes with cooling it on ice. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The obtained organic layer was washed twice with water, and then dried over magnesium sulfate. The residue was purified by a short-column chromatography (eluent: n-hexane/ethyl acetate=4/1) to yield white solids (21.8 g).

reactant | 1H-1,2,4-triazole | 5 g | N1N=CN=C1 | C2H3N3
reactant | 4-toluenesulfonyl chloride | 14.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydride | 2.9 g | [H-].[Na+]
reactant | water | O | H2O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-Toluenesulfonyl)-1H-triazole | 21.8 g | C1(=CC=C(C=C1)S(=O)(=O)N1N=NC=C1)C | C9H9N3O2S
